US06472386B1
Synthesis of N,N′-bis[[4-Methyl-2-(3,4,5-trimethoxy-phenyl)thiazol-5-yl]methyl]piperazine
5-Chloromethyl-4-methyl-2-(3,4,5-trimethoxy-phenyl)thiazole (104 mg) and piperazine (13 mg) were reacted in the same manner in Example 1 to obtain the title compound as a free base.

reactant | 5-Chloromethyl-4-methyl-2-(3,4,5-trimethoxy-phenyl)thiazole | 104 mg | ClCC1=C(N=C(S1)C1=CC(=C(C(=C1)OC)OC)OC)C | C14H16ClNO3S
reactant | piperazine | 13 mg | N1CCNCC1 | C4H10N2
product | N,N′-bis[[4-Methyl-2-(3,4,5-trimethoxy-phenyl)thiazol-5-yl]methyl]piperazine | CC=1N=C(SC1CN1CCN(CC1)CC1=C(N=C(S1)C1=CC(=C(C(=C1)OC)OC)OC)C)C1=CC(=C(C(=C1)OC)OC)OC | C32H40N4O6S2
